US07932262B2
Step 3. Preparation of 3-(8-(1-Methylpiperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide
To a 0.3M solution of triphenylphosphine (1.5 eq) in THF was added di-tert-butylazodicarboxylate (1.5 eq). The mixture was stirred 15 minutes at ambient temperature. 4-Hydroxy-1-methylpiperidine (4.5 eq) was added. The mixture was stirred 15 minutes at ambient temperature. 3-(8-Hydroxyquinazolin-2-ylamino)benzenesulfonamide (1.0 eq) was added. The mixture was stirred an additional 1 hour. The crude mixture was concentrated, purified by RPHPLC, and lyophilized to give the desired product in 24.2% yield ES/MS m/z 414 (MH+).

reactant | triphenylphosphine | 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 1.5 eq | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-Hydroxy-1-methylpiperidine | 4.5 eq | OC1CCN(CC1)C | C6H13NO
reactant | 3-(8-Hydroxyquinazolin-2-ylamino)benzenesulfonamide | 1.0 eq | OC=1C=CC=C2C=NC(=NC12)NC=1C=C(C=CC1)S(=O)(=O)N | C14H12N4O3S
solvent | THF | C1CCOC1 | C4H8O
product | 3-(8-(1-Methylpiperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide | 24.2% yield | CN1CCC(CC1)OC=1C=CC=C2C=NC(=NC12)NC=1C=C(C=CC1)S(=O)(=O)N | C20H23N5O3S
